US07723378B2
A solution of 2,5-dibromoxylene (8.0 g, 30.3 mmol) in diethyl ether (120 mL) is cooled to −78° C. and then treated with n-buthyllithium (20 mL, 1.6 M in hexane). After stirring for 40 min, DMF (6 mL) is slowly added. The mixture is warmed to rt and stirred for 1 h. The mixture is cooled again to −78° C. before another portion of n-butyllithium (5 mL) is added. The reaction mixture is allowed to warm to rt and stirred for another hour. The reaction is quenched by adding 5% aq. HCl. The mixture is extracted with EA, and the extract is concentrated in vacuo. The crude product is purified by CC on silica gel eluting with heptane:EA 5:1 to give 4-bromo-3,5-dimethyl-benzaldehyde (8.2 g) as a white soft solid.

reactant | 2,5-dibromoxylene | 30.3 mmol, 8.0 g | BrC1(C(C=C(C=C1)Br)C)C | C8H10Br2
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
reactant | n-butyllithium | 5 mL | C(CCC)[Li]
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 4-bromo-3,5-dimethyl-benzaldehyde | 8.2 g | BrC1=C(C=C(C=O)C=C1C)C | C9H9BrO
